US04758573
(b) Methyl-[4-(4-methoxyphenyl)]-2-hydroxymethylbutanoate
A mixture of [4-(4-methoxyphenyl)]-2-hydroxymethyl butanoic acid (6.0 g, 0.027 mol), iodomethane (5.68 g, 0.04 mol) and potassium carbonate (7.45 g, 0.054 mol) in dimethylformamide (40 ml) was heated at 70° C. for 1 h. After cooling to room temperature the reaction mixture was diluted with ethyl acetate (400 ml), washed with water (3×200 ml), sodium hydrogen carbonate solution (2×200 ml) and again with water (2×200 ml). Drying (MgSO4) and removal of solvent at reduced pressure gave the product as a pale yellow oil.

reactant | [4-(4-methoxyphenyl)]-2-hydroxymethyl butanoic acid | 0.027 mol, 6.0 g | COC1=CC=C(C=C1)CCC(C(=O)O)CO | C12H16O4
reactant | iodomethane | 0.04 mol, 5.68 g | IC | CH3I
reactant | potassium carbonate | 0.054 mol, 7.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | Methyl-[4-(4-methoxyphenyl)]-2-hydroxymethylbutanoate | COC(C(CCC1=CC=C(C=C1)OC)CO)=O | C13H18O4
